US08686002B2
3-(2-Methoxybenzyl)-N7,N7-dimethylquinolin-2,7-diamine
The title compound was synthesized according to EXAMPLE 11 from 2-amino-4-dimethylaminobenzaldehyde and 3-(2-methoxyphenyl)propionitrile. The reaction was performed thermally (45 min, 70-80° C.).

reactant | 2-amino-4-dimethylaminobenzaldehyde | NC1=C(C=O)C=CC(=C1)N(C)C | C9H12N2O
reactant | 3-(2-methoxyphenyl)propionitrile | COC1=C(C=CC=C1)CCC#N | C10H11NO
product | 3-(2-Methoxybenzyl)-N7,N7-dimethylquinolin-2,7-diamine | COC1=C(CC=2C(=NC3=CC(=CC=C3C2)N(C)C)N)C=CC=C1 | C19H21N3O
